US09303007B2
HATU (203 mg, 0.533 mmol) was added to a stirred solution of (1R,5R)-benzyl 3-(5-(4-(6-(2-((1R,3S,5R)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-5-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (225 mg) and (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid (93 mg, 0.53 mmol) in DMF (3 mL) and DIPEA (0.37 mL, 2.1 mmol) and the reaction was stirred at rt for 3 hr. The crude reaction was concentrated under a stream of nitrogen and the residue was dissolved into MeOH and purified by preparative HPLC (MeOH/water with an ammonium acetate buffer) to yield (1R,5R)-benzyl 3-(5-(4-(6-(2-((1R,3S,5R)-2-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-5-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (200 mg) as a yellow solid. LC-MS retention time 4.053 min; m/z 790.25 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 3u C18 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where Solvent A was 5% MeOH/95% H2O/10 mM ammonium acetate and Solvent B was 5% H2O/95% MeOH/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (400 MHz, MeOD) δ ppm 8.28 (s, 2H), 8.13 (d, J=8.8 Hz, 1H), 8.08 (d, J=8.8 Hz, 1H), 7.94-8.02 (m, 4H), 7.76-7.92 (m, 3H), 7.85 (dd, J=8.7, 1.6 Hz, 1H), 7.29 (br. s., 5H), 5.21 (d, J=12.1 Hz 1H), 5.16 (dd, J=9.2, 6.9 Hz, 1H), 4.97 (t, J=8.2 Hz, 1H), 4.57 (d, J=6.5 Hz, 1H), 3.78-3.87 (m, 1H), 3.68 (s, 3H), 3.64-3.77 (m, 2H), 2.66-2.77 (m, 2H), 2.40-2.56 (m, 2H), 2.14-2.25 (m, 1H), 2.05-2.14 (m, 1H), 1.87 (d, J=6.5 Hz, 1H), 1.06-1.16 (m, 1H), 1.02 (d, J=6.8 Hz, 3H), 0.94 (d, J=6.8 Hz, 3H), 0.87-0.99 (m, 2H), 0.74-0.82 (m, 1H).

reactant | HATU | 0.533 mmol, 203 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (1R,5R)-benzyl 3-(5-(4-(6-(2-((1R,3S,5R)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-5-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 225 mg | [C@@H]12N[C@@H](C[C@H]2C1)C=1NC(=CN1)C=1C=C2C=CC(=CC2=CC1)C1=CC=C(C=C1)C1=CN=C(N1)C1N([C@@H]2C[C@@H]2C1)C(=O)OCC1=CC=CC=C1 | C40H36N6O2
reactant | (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid | 0.53 mmol, 93 mg | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
reactant | DIPEA | 2.1 mmol, 0.37 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (1R,5R)-benzyl 3-(5-(4-(6-(2-((1R,3S,5R)-2-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-5-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 200 mg | COC(=O)N[C@H](C(=O)N1[C@@H]2C[C@@H]2C[C@H]1C=1NC(=CN1)C=1C=C2C=CC(=CC2=CC1)C1=CC=C(C=C1)C1=CN=C(N1)C1N([C@@H]2C[C@@H]2C1)C(=O)OCC1=CC=CC=C1)C(C)C | C47H47N7O5
